US06187774B1
Lithium diisopropylamide solution prepared from diisopropylamine (2.8 ml) and 1 M n-butyl lithium (11 ml) in tetrahydrofuran (40 ml) was cooled to −78° C. and cyclohexanone (2.0 ml) was added. The mixture was stirred at −78° C. for 1 hour and 1-tert-butoxycarbonyl-4-imidazocarbonylpiperidine (4.8 g) prepared from N-tert-butoxycarbonylisonipecotic acid was added. The mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated and water was added to the obtained residue. The mixture was extracted with ethyl acetate and the extract was dried over anhydrous magnesium sulfate. The filtrate was concentrated under reduced pressure to give 3.8 g of an oily substance. The oil was subjected to silica gel column chromatography (eluent; chloroform:methanol=20:1) to give 2-((1-tert-butoxycarbonylpiperidin-4-yl)carbonyl)cyclohexanone, m.p. 71-72° C.

reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 2.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1 M, 11 ml | C(CCC)[Li]
reactant | cyclohexanone | 2.0 ml | C1(CCCCC1)=O | C6H10O
reactant | N-tert-butoxycarbonylisonipecotic acid | C(C)(C)(C)OC(=O)N1CCC(C(=O)O)CC1 | C11H19NO4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-((1-tert-butoxycarbonylpiperidin-4-yl)carbonyl)cyclohexanone | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1C(CCCC1)=O | C17H27NO4
